US08530647B2
A suspension of 10 g of 10-methoxyiminostilbene in 200 ml toluene was treated with 20 g of sodium cyanate and 39 g of mandelic acid and was heated to reflux for about 10 hrs. The reaction mixture was cooled to room temperature and charged with sodium hydroxide solution and maintained for 19 hrs. The resulting suspension was filtered, washed with water and dried to give 10 g of 10-methoxy carbamazepine.

reactant | 10-methoxyiminostilbene | 10 g | COC1=CC2=CC=CC=C2NC3=CC=CC=C31 | C15H13NO
reactant | sodium cyanate | 20 g | [O-]C#N.[Na+]
reactant | mandelic acid | 39 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 10-methoxy carbamazepine | 10 g | COC1=CC2=CC=CC=C2N(C3=CC=CC=C31)C(=O)N | C16H14N2O2
